US05744488
b) 3-Pyridineacetaldehyde-4-nitrophenylhydrazone
A solution of 3-(2-EZ-methoxyethenyl)pyridine (3.43 g) in ethanol (15 ml) and 2N hydrochloric acid (25 ml) was heated under reflux for 1 hour and then cooled. 4-nitrophenylhydrazine (3.89 g) was added portionwise with stirring to give a solution which deposited a yellow solid. The mixture was cooled in ice and the solid was filtered off, washed with isopropanol,ether and then dried to give the title compound (5.32 g), m.p. 212°-214° C. Found: C,53.54; H,4.51; N,19.00. C13 H12N4O2 requires: C,53.34; H,4.48; N,19.14%.

reactant | 3-(2-EZ-methoxyethenyl)pyridine | 3.43 g | COC=CC=1C=NC=CC1 | C8H9NO
reactant | 4-nitrophenylhydrazine | 3.89 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2N, 25 ml | Cl | ClH
product | 3-Pyridineacetaldehyde-4-nitrophenylhydrazone | 5.32 g | [N+](=O)([O-])C1=CC=C(C=C1)NN=CCC=1C=NC=CC1 | C13H12N4O2
